US06344580B1
Preparation of 5-Cyano-2,2-dimethylcyclopentanone
A suspension of potassium t-butoxide (60.2 g, 0.54 mole) in toluene is treated with 2,2-dimethyladiponitrile (120.7 g, 0.87 mole) at 80° C., stirred for 2 hours, cooled to less than 30° C., and quenched with water. The phases are separated, the organic phase is stirred with 3N hydrochloric acid and filtered. The filtrate is concentrated in vacuo to give an oil which is distilled (2 torr, 150° C.) twice to afford the title product as a colorless oil, 65.7 g (98.5% pure, 55% yield), identified by gas chromatography.

reactant | potassium t-butoxide | 0.54 mole, 60.2 g | CC(C)([O-])C.[K+]
reactant | 2,2-dimethyladiponitrile | 0.87 mole, 120.7 g | CC(C#N)(CCCC#N)C | C8H12N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-Cyano-2,2-dimethylcyclopentanone | 55% yield | C(#N)C1CCC(C1=O)(C)C | C8H11NO
